US06498165B1
Step D: 2-Ethanesulfonyl-4-[benzimidazol-1-yl]-6-propylpyrimidine
To a solution of 2-ethylthio-4-[benzimidazol-1-yl]-6-propylpyrimidine in MeOH (4 mL) was added a suspension of Oxone® (1.73 g) in water (4 mL). The resulting slurry was stirred at room temperature for 3.5 h. The reaction was diluted with water (10 mL) and extracted with methylene chloride (3×30 mL). The combined organic layer was washed with water, brine and dried (anhydrous Na2SO4). Removal of solvent gave 295 mg of the title compound which was used directly in the next step. 1H NMR (500 MHz, CDCl3): δ 8.76 (s, 1H); 8.37 (d, J=8.0 Hz, 1H); 7.89 (d, J=8.1 Hz, 1H); 7.57 (s, 1H); 7.51 (dd, J=7.3, 8.3 Hz, 1H); 7.46 (dd, J=7.3, 7.6 Hz, 1H); 7.28 (s, 1H); 3.64 (q, J=7.4 Hz, 2H); 2.99 (t, J=7.5 Hz, 2H); 1.92 (m, J=7.5 Hz, 2H); 1.52 (t, J=7.5 Hz, 3H); 1.08 (t, J=7.3 Hz, 3H).

reactant | 2-ethylthio-4-[benzimidazol-1-yl]-6-propylpyrimidine | C(C)SC1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)CCC | C16H18N4S
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | water | 4 mL | O | H2O
reactant | water | 10 mL | O | H2O
solvent | MeOH | 4 mL | CO | CH4O
product | 2-Ethanesulfonyl-4-[benzimidazol-1-yl]-6-propylpyrimidine | 295 mg | C(C)S(=O)(=O)C1=NC(=CC(=N1)N1C=NC2=C1C=CC=C2)CCC | C16H18N4O2S
